### PR TITLE
Improve parity example coqdoc comments

### PR DESCRIPTION
**Pull request by DafinaTrufas**
In addition to adding more coqdoc comments (which I hope to be useful, maybe some of them are to obvious, I'm not sure), I made a few minor changes in some proofs, where I thought I found a shorter proof (for a utility lemma, using a stdpp lemma in the proof made it a bit shorter), or there was a redundant step (eg. a `cbn` which did nothing). Please let me know if that's ok.

### CODE REVIEW

File: theories/VLSM/Core/Examples/Parity.v [hunk 1]
```diff
@@ -18,20 +18,26 @@ From VLSM.Core Require Import VLSM PreloadedVLSM VLSMProjections.
...
 
+(** Parity is preserved by taking opposite *)
 Lemma Zeven_unary_minus :
   forall n : Z, Z.Even n <-> Z.Even (-n).
 Proof. by intros n; split; intros [p Hp]; exists (-p); lia. Qed.
 
+(** Even subtrahend and difference implies even minuend 
+    This lemma will be useful when proving the final result of this section, because of the way 
+    we defined the transitions in the Parity VLSM *)
+(** Maybe also renamed to be more suggestive in the sense that is about a difference? *)
```
Comment (palmskog) [inline theories/VLSM/Core/Examples/Parity.v:29]: Subtrahend and minuend I think are reasonable latin words, but they are considered archaic in English. Maybe better to use something simple like "left-hand side"?

The "Maybe also" seems like a TODO comment, we probably don't want to include that one.

File: theories/VLSM/Core/Examples/Parity.v [hunk 2]
```diff
@@ -173,6 +180,9 @@ Proof. done. Qed.
 
 (** *** Example of a valid trace *)
 
+(** The initial state cannot be included to this definition, because, since there is no transition reaching this state, it cannot be expressed in the below manner
+    Regarding the transition which leads to the final state, it technically could be included, but we choose to model this way, in order to be consistent
+    with the subsequent example, where adding the last transition makes a qualitative difference to the trace *)
```
Comment (palmskog) [inline theories/VLSM/Core/Examples/Parity.v:185]: Please make the lines shorter (around 80 characters per line).

**Review by palmskog — COMMENTED** [review]
Looks good in general, but some nitpicks.

File: theories/VLSM/Core/Examples/Parity.v (hunk 1 above)
Comment (palmskog) [reply theories/VLSM/Core/Examples/Parity.v:29]: The only name improvement I can think of is to actual include the subtraction as part of the name, e.g., `Zeven_sub_preserve_parity`.

Comment (DafinaTrufas) [reply theories/VLSM/Core/Examples/Parity.v]: Yes, this is what I was thinking about. So should I change it?

File: theories/VLSM/Core/Examples/Parity.v [hunk 3]
```diff
@@ -40,6 +46,7 @@ Proof.
     by rewrite Zeven_equiv, <- Hparity, <- Zeven_equiv.
 Qed.
 
+(** Parity is preserved by taking difference *)
```
Comment (wkolowski) [inline theories/VLSM/Core/Examples/Parity.v:48]:
```suggestion
(** Parity is preserved by subtraction. *)
```

File: theories/VLSM/Core/Examples/Parity.v [hunk 4]
```diff
@@ -18,20 +18,26 @@ From VLSM.Core Require Import VLSM PreloadedVLSM VLSMProjections.
...
+(** Parity is preserved by taking opposite *)
 Lemma Zeven_unary_minus :
   forall n : Z, Z.Even n <-> Z.Even (-n).
 Proof. by intros n; split; intros [p Hp]; exists (-p); lia. Qed.
 
-Lemma Zeven_preserve_parity :
+(** Even right-hand side and difference implies even left-hand side 
+    This lemma will be useful when proving the final result of this section, because of the way 
+    we defined the transitions in the Parity VLSM *)
+(** Maybe also renamed to be more suggestive in the sense that is about a difference? *)
```
Comment (wkolowski) [inline theories/VLSM/Core/Examples/Parity.v]: Don't forget to remove this TODO-like comment.

File: theories/VLSM/Core/Examples/Parity.v [hunk 5]
```diff
@@ -51,13 +58,13 @@ Proof.
   by apply Zeven_unary_minus.
 Qed.
 
+(** Even sum term implies parity of the sum depends on the parity of the other sum term *)
```
Comment (wkolowski) [inline theories/VLSM/Core/Examples/Parity.v:60]: This comment is not really helpful. It just paraphrases the lemma statement in natural language, which is much less clear than the formal statement itself.

File: theories/VLSM/Core/Examples/Parity.v (hunk 4 above)
Comment (palmskog) [inline theories/VLSM/Core/Examples/Parity.v:29]:
```suggestion
```

**Review by palmskog — APPROVED** [review]
@DafinaTrufas you can merge after removing the "Maybe also" comment.

File: theories/VLSM/Core/Examples/Parity.v [hunk 6]
```diff
@@ -173,6 +180,12 @@ Proof. done. Qed.
 
 (** *** Example of a valid trace *)
 
+(** The initial state cannot be included to this definition, because, since there is no
+    transition reaching this state, it cannot be expressed in the below manner
+    Regarding the transition which leads to the final state, it technically could be
+    included, but we choose to model this way, in order to be consistent
+    with the subsequent example, where adding the last transition makes a qualitative
+    difference to the trace *)
```
Comment (wkolowski) [inline theories/VLSM/Core/Examples/Parity.v:187]:
```suggestion
(**
  The initial state cannot be included to this definition, because, since there is no
  transition reaching this state, it cannot be expressed in the below manner
  Regarding the transition which leads to the final state, it technically could be
  included, but we choose to model this way, in order to be consistent
  with the subsequent example, where adding the last transition makes a qualitative
  difference to the trace.
*)
```

File: theories/VLSM/Core/Examples/Parity.v [hunk 7]
```diff
@@ -380,7 +394,7 @@ Proof.
   by apply vlsm_incl_pre_loaded_with_all_messages_vlsm.
 Qed.
 
-(** *** Constrained messages are even integers *)
+(** *** Constrained messages are strictly positive even integers *)
```
Comment (wkolowski) [inline theories/VLSM/Core/Examples/Parity.v:396]: I think "positive" suffices here.

```suggestion
(** *** Constrained messages are positive even integers *)
```
